US04806555
4-chloro-1-(4-fluorophenoxy)-2-butanol
Utilizing the procedure of Preparation 21, 1,4-dichloro-2-butanol was reacted with 4-fluorophenol to give white title compound, m.p. 53°-55° C. in 30% yield.

reactant | 1,4-dichloro-2-butanol | ClCC(CCCl)O | C4H8Cl2O
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
product | 4-chloro-1-(4-fluorophenoxy)-2-butanol | 30% yield | ClCCC(COC1=CC=C(C=C1)F)O | C10H12ClFO2
